US09085555B2
C. (2S,3R)-3-Azido-2-(3-chloro-2-fluoro-benzylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of (2S,3S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester (1.60 g, 2.35 mmol) and NaN3 (0.370 g, 5.67 mmol) in dry DMF (12 mL) was stirred at 110° C. for 60 h. The mixture was partitioned between water and EtOAc. The aqueous layer was extracted with EtOAc (3×), the combined organics were washed with brine, dried (phase separator) and concentrated in vacuo. The crude product was purified by flash column chromatography on silica gel (EtOAc/c-hexane 1:4 to 1:2) to afford the title compound as a colorless foam. MS (LC-MS): 398 [M+H]+, 342 [MH−tBu]+, 298 [MH−Boc]+; tR (HPLC conditions c): 5.15 min.

reactant | (2S,3S)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-3-methanesulfonyloxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.35 mmol, 1.60 g | C(C)(C)(C)OC(=O)N1[C@@H]([C@H](CC1)OS(=O)(=O)C)C(NCC1=C(C(=CC=C1)Cl)F)=O | C18H24ClFN2O6S
reactant | NaN3 | 5.67 mmol, 0.370 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | (2S,3R)-3-Azido-2-(3-chloro-2-fluoro-benzylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@@H](CC1)N=[N+]=[N-])C(NCC1=C(C(=CC=C1)Cl)F)=O | C17H21ClFN5O3
